US04827004
A solution of 0.5 g (0.0016 mol) of (6Z,10Z)-2,6,10-trimethyl-12-[(tetrahydro-2H-pyran-2-yl)oxy]-1,6,10-dodecatrien-3-ol dissolved in 15 ml of ethylene chloride is treated with 10 g of manganese dioxide. The suspension is stirred at room temperature for 18 hours under argon. After filtration and removal of the solvent the residue is chromatographed on silica gel with ether-hexane 10:1. The product, containing (6Z,10Z)-2,6,10-trimethyl-12-[(tetrahydro-2H-pyran-2-yl)oxy]-1,6,10-dodecatrien-3-one, is dissolved in 10 ml of tetrahydrofuran and 2.6 ml of water and treated with 118 mg of pyridinium p-toluenesulfonate. The solution is boiled at reflux for 17 hours. After cooling 100 ml of water and 200 ml of ether are added thereto. The organic phase is neutralized with sodium bicarbonate solution. After drying and removing the solvent the residue is chromatographed on silica gel with ether-hexane 1:1. There is obtained (6Z,10Z)-12-hydroxy-2,6,10-trimethyl- 1,6,10-dodecatrien-3-one which exhibits the following absorption bands in the IR spectrum: 3387 cm-1, 1677 cm-1, 1629 cm-1, 1417 cm-1, 1389 cm-1, 997 cm-1, 950 cm-1.

reactant | (6Z,10Z)-2,6,10-trimethyl-12-[(tetrahydro-2H-pyran-2-yl)oxy]-1,6,10-dodecatrien-3-ol | 0.0016 mol, 0.5 g | CC(=C)C(CC\C(=C/CC\C(=C/COC1OCCCC1)\C)\C)O | C20H34O3
solvent | ethylene chloride | 15 ml | C(CCl)Cl | C2H4Cl2
catalyst | manganese dioxide | 10 g | [O-2].[O-2].[Mn+4]
product | (6Z,10Z)-12-hydroxy-2,6,10-trimethyl- 1,6,10-dodecatrien-3-one | OC\C=C(/CC\C=C(/CCC(C(=C)C)=O)\C)\C | C15H24O2
